US03946049
B. 5-(p-Methoxyphenyl)-2-furaldehyde Oxime
A 250 ml Erlenmeyer flask was charged with 5-(4-methoxyphenyl)-2-furaldehyde (40 g, 0.20 mole) and absolute alcohol (125 ml). A solution of hydroxylamine hydrochloride (14 g, 0.20 mole) in water (25 ml) was added to this suspension. This mixture was stirred for 1 hour, cooled, filtered and washed with isopropanol, yielding 28 g (65.2%).

reactant | 5-(4-methoxyphenyl)-2-furaldehyde | 0.20 mole, 40 g | COC1=CC=C(C=C1)C1=CC=C(O1)C=O | C12H10O3
reactant | hydroxylamine hydrochloride | 0.20 mole, 14 g | Cl.NO
solvent | water | 25 ml | O | H2O
product | 5-(p-Methoxyphenyl)-2-furaldehyde Oxime | COC1=CC=C(C=C1)C1=CC=C(O1)C=NO | C12H11NO3
